US05723165
To a solution of 6.69 g (14.2 mmols) of N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine and 2.04 g (15.1 mmols) of (S)-α-ethylbenzylamine in 200 ml of methylene chloride were added 2.73 g (14.2 mmols) of water-soluble carbodiimide hydrochloride and 1.92 g (14.2 mmols) of HOBt under cooling and stirred for one hour under cooling and then overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and 150 ml of ethyl acetate was added. The resulting residue was washed two times each with 70 ml of aqueous 5% citric acid, once with 70 ml of water, two times each with 70 ml of aqueous 5% sodium hydrogencarbonate and once with 70 ml of brine in that order. The resulting organic layer was dried with anhydrous magnesium sulfate, the magnesium sulfate was removed by filtration, and the resulting filtrate was concentrated under reduced pressure. The resulting residue was dissolved in chloroform and concentrated under reduced pressure. The resulting solid residue was washed with ethyl acetate and dried to obtain 2.81 g (4.7 mmols) of N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine (S)-α-ethylbenzylamide.

reactant | N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine | 14.2 mmols, 6.69 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C(O)=O)CC1=CC=CC=C1)C(=O)N[C@H]([C@H](C)CC)C(=O)O | C25H30N2O7
reactant | (S)-α-ethylbenzylamine | 15.1 mmols, 2.04 g | C(C)[C@@H](C1=CC=CC=C1)N | C9H13N
reactant | water | 14.2 mmols, 2.73 g | O | H2O
reactant | HOBt | 14.2 mmols, 1.92 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine (S)-α-ethylbenzylamide | 4.7 mmols, 2.81 g | C(C)[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(O)=O)CC1=CC=CC=C1)=O)[C@H](C)CC)=O | C34H41N3O6
